US07456186B2
Preparation of Ethyl 2-(3-Bromo-4-fluorophenyl)-2-hydroxyethanimidoate Hydrochloride
A solution of 1-(3-bromo-4-fluorophenyl)-1-cyanomethanol (47.5 g, 206 mmol) and ethanol (10.9 g, 237 mmol) in ether is cooled with an ice bath and treated dropwise with HCl (258 mL of a 1.0 M solution in diethyl ether, 258 mmol) over a period of 40 min., stirred at ice-bath temperature for 2 h, stored at 0° C. for 6 days, warmed to room temperature, diluted with hexanes and filtered. The filtercake is dried to afford the title compound as a white solid, 39.8 g (62% yield), identified by NMR and mass spectral analyses. The title compound is a mixture of E and Z isomers. 1H NMR (300 MHz, CD3OD) δ 7.78 (m, 1H), 7.49 (m, 1H), 7.28 (m, 1H), 5.54 and 5.17 (2m, 1H), 4.45 and 4.15 (2m, 2H), 1.38 and 1.20 (2t, 3H); ESI MS m/z 261 [C10H11BrFNO2+H]+

reactant | 1-(3-bromo-4-fluorophenyl)-1-cyanomethanol | 206 mmol, 47.5 g | BrC=1C=C(C=CC1F)C(O)C#N | C8H5BrFNO
reactant | ethanol | 237 mmol, 10.9 g | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 2-(3-Bromo-4-fluorophenyl)-2-hydroxyethanimidoate Hydrochloride | 62% yield | Cl.BrC=1C=C(C=CC1F)C(C(OCC)=N)O | InChI=1S/C10H11BrFNO2.ClH/c1-2-15-10(13)9(14)6-3-4-8(12)7(11)5-6;/h3-5,9,13-14H,2H2,1H3;1H
